US04824958
Following the procedure described in Example 120, 2-furancarboxylic acid (5.00 g, 44.46 mmol) is treated with 1,1'-carbonyl diimidazole (8.31 g, 51.25 mmol, 1.15 equiv), triethylamine (10.9 g, 107.6 mmol, 2.4 equiv) and 5-aminotetrazole (4.51 g, 53.02 mmol, 1.19 equiv) in refluxing (17 hours) acetonitrile (250 mL) to give the crude carbamoyl product. Recrystallization from N,N-dimethyl formamide/water afforded 4.90 g (7.96 g theo., 62%) of N-1H-tetrazol-5-yl-2-furancarboxamide as a white solid; mp 280°-283° C. (dec).

reactant | 2-furancarboxylic acid | 44.46 mmol, 5.00 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | 1,1'-carbonyl diimidazole | 51.25 mmol, 8.31 g, 1.15 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 107.6 mmol, 10.9 g, 2.4 equiv | C(C)N(CC)CC | C6H15N
reactant | 5-aminotetrazole | 53.02 mmol, 4.51 g, 1.19 equiv | NC1=NN=NN1 | CH3N5
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | N-1H-tetrazol-5-yl-2-furancarboxamide | 4.90 g, 62% | N1N=NN=C1NC(=O)C=1OC=CC1 | C6H5N5O2
